US04145432
Starting from a mixture of 2-phenoxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate (1.24 g) in acetone (12 ml) and 6N hydrochloric acid (1.2 ml) was obtained an oil (1.1 g) of 2-phenoxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate, in a substantially similar manner to that of Example 2-6).

reactant | 2-phenoxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate | 1.24 g | CC=1NC(=C(C(C1C(=O)OCCOC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C(OCC)OCC | C29H34N2O9
solvent | acetone | 12 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 6N, 1.2 ml | Cl | ClH
product | 2-phenoxyethyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 1.1 g | CC=1NC(=C(C(C1C(=O)OCCOC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C25H24N2O8
